US06329397B1
To a mixture of acetyl propanol (0.39 mL, 3.8 mmol), [4-(4-fluoro-benzyloxy)-benzenesulfonylamino]-acetic acid tert-butyl ester (1.0 g, 2.53 mmol) and tetrahydrofuran (8 mL) was added triphenylphosphine (1.0 g, 3.8 mmol) and diethylazodicarboxylate (0.60 mL, 3.8 mmol). After stirring for 6 h at room temperature, the mixture was treated with additional acetyl propanol (0.15 mL), triphenyl phosphine (0.30 g) and diethylazodicarboxylate (0.20 mL). After stirring for 30 min, the mixture was concentrated in vacuo, and the residue was purified by silica gel chromatography eluting with 4:1 to 2:1 hexane-ethyl acetate, giving 0.70 g of 2-[4-(4-fluoro-benzyloxy)-benzenesulfonylamino]-oxo-heptanoic acid tert-butyl ester as a colorless solid:

reactant | acetyl propanol | 3.8 mmol, 0.39 mL | C(C)(=O)C(CC)O | C5H10O2
reactant | [4-(4-fluoro-benzyloxy)-benzenesulfonylamino]-acetic acid tert-butyl ester | 2.53 mmol, 1.0 g | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C19H22FNO5S
reactant | triphenylphosphine | 3.8 mmol, 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 3.8 mmol, 0.60 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | acetyl propanol | 0.15 mL | C(C)(=O)C(CC)O | C5H10O2
reactant | triphenyl phosphine | 0.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.20 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-[4-(4-fluoro-benzyloxy)-benzenesulfonylamino]-oxo-heptanoic acid tert-butyl ester | 0.70 g | C(C)(C)(C)OC(C(C(CCCC)=O)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C24H30FNO6S
